US06632820B1
4-Chloro-6-(2-chloro-5-methylanilino)pyrimidine
Tetramethylene sulphone (10 ml) was added to 4,6-dichloropyrimidine (25.0 g, 170 mmol) and heated to 125° C. 2-Chloro-5-methylaniline (11.90 g, 84 mmol) was added portion wise over 20 mins. The reaction mixture was heated at 125° C. for 2 hours. The reaction was allowed to cool to room temperature and DCM (200 ml) was added. The mixture was basified to pH 9-10 with methanolic ammonia and evaporated onto silica (15 g). The residue was purified by column chromatography eluting with EtOAc:isohexane (10:90) to give a white solid (12.25 g, 29%). NMR (300 MHz): 2.3 (s, 3H), 6.7 (s, 1H), 7.0 (d, 1H), 7.4 (d, 1H), 7.5 (s, 1H), 8.4 (s, 1H), 9.4 (s, 1H); m/z 254 (MH+).

reactant | Tetramethylene sulphone | 10 ml | C1CCCS1(=O)=O | C4H8O2S
reactant | 4,6-dichloropyrimidine | 170 mmol, 25.0 g | ClC1=NC=NC(=C1)Cl | C4H2Cl2N2
reactant | 2-Chloro-5-methylaniline | 84 mmol, 11.90 g | ClC1=C(N)C=C(C=C1)C | C7H8ClN
reactant | ammonia | N | H3N
solvent | DCM | 200 ml | C(Cl)Cl | CH2Cl2
product | 4-Chloro-6-(2-chloro-5-methylanilino)pyrimidine | 12.25 g, 29% | ClC1=NC=NC(=C1)NC1=C(C=CC(=C1)C)Cl | C11H9Cl2N3
